US07732432B2
Synthesis of “Cyclized” (11β,16β)-9-fluoro-11,21-dihydroxy-16-methyl-3,20-dioxopregna-1,4-dien-17-yl propylcarbamate
To a solution of (11β,16β)-21-(acetyloxy)-9-fluoro-11-hydroxy-16-methyl-3,20-dioxopregna-1,4-dien-17-yl propylcarbamate (8.5 mg, 0.016 mmol) in 0.3 mL of tetrahydrofuran and 0.1 mL of methanol was added 0.030 mL of a 0.1M solution of potassium carbonate in methanol/water (9:1). After 10 minutes at room temperature, the solution was partitioned between ethyl acetate and water and the organic layer was washed with water (twice) and brine and dried over Na2SO4. The solution was filtered and evaporated in vacuo to give an oil which was purified by preparative thin layer chromatography on silica gel, eluting with ethyl acetate/hexane/dichloromethane/methanol (3:3:3:1), to yield 4.6 mg of the title compound as a semi-solid.

reactant | (11β,16β)-21-(acetyloxy)-9-fluoro-11-hydroxy-16-methyl-3,20-dioxopregna-1,4-dien-17-yl propylcarbamate | 0.016 mmol, 8.5 mg | C(CC)NC(O[C@]1(C(COC(C)=O)=O)[C@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@]3([C@H](C[C@]12C)O)F)=O)C)=O | C28H38FNO7
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 0.3 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.1 mL | CO | CH4O
solvent | methanol water | CO.O
product | (11β,16β)-9-fluoro-11,21-dihydroxy-16-methyl-3,20-dioxopregna-1,4-dien-17-yl propylcarbamate | 4.6 mg | C(CC)NC(O[C@]1(C(CO)=O)[C@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@]3([C@H](C[C@]12C)O)F)=O)C)=O | C26H36FNO6
